US05380861
9.0 ml (80 mmol) of 1-hexyne and 6.0 g (40 mmol) of 2,5-dichloropyridine in 80 ml of diethylamine are placed under argon, whereby a pale yellow solution results. Thereto there are added 0.40 g (1.5 mmol) of triphenylphosphine, 0.04 g (0.02 mmol) of copper-(I) iodide as well as 0.24 g (0.9 mmol) of palladium-dichloro-bis(triphenylphospine). The orange solution obtained is subsequently heated to reflux for 24 hours while stirring. Thereafter, the reaction mixture is cooled to 25° and evaporated at 40° under reduced pressure. The brown residue is then treated with 50 ml of ethanol and again evaporated. The crude product is filtered over 50 g of silica gel with 700 ml of hexane/toluene (1:1) and the eluate is evaporated at 50° under reduced pressure. The residue is subsequently distilled in a bulb tube at 190°/2600 Pa. There are obtained 6.8 g of 2-hexynyl-5-chloropyridine as a yellow oil.

reactant | 1-hexyne | 80 mmol, 9.0 ml | C#CCCCC | C6H10
reactant | 2,5-dichloropyridine | 40 mmol, 6.0 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
solvent | diethylamine | 80 ml | C(C)NCC | C4H11N
catalyst | copper-(I) iodide | 0.02 mmol, 0.04 g | [Cu]I
catalyst | triphenylphosphine | 1.5 mmol, 0.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-hexynyl-5-chloropyridine | 6.8 g | C(#CCCCC)C1=NC=C(C=C1)Cl | C11H12ClN
